US08383637B2
3-Amino-N-cyclohexyl-N-methyl-propionamide
A mixture of 2-cyano-N-cyclohexyl-N-methyl-acetamide (3.96 g, 0.022 mol), a known compound, (which may be prepared as disclosed in Osdene, Thomas S. et al. Journal of Medicinal Chemistry (1967), 10(2), 165-7; Osdene, Thomas S.; Santilli, Arthur A. U.S. Pat. No. 3,138,595) and Raney nickel (3 g) in NH3/MeOH (300 mL) was hydrogenated at normal pressure. After 2 equivalents of hydrogen were consumed, the catalyst was removed by filtration. The filtrate was evaporated, and toluene was added to the residue and then evaporated to yield a residue.

reactant | 2-cyano-N-cyclohexyl-N-methyl-acetamide | 0.022 mol, 3.96 g | C(#N)CC(=O)N(C)C1CCCCC1 | C10H16N2O
reactant | hydrogen | 2 equivalents | [H][H] | H2
catalyst | Raney nickel | 3 g | [Ni] | Ni
solvent | NH3 MeOH | 300 mL | N.CO
product | 3-Amino-N-cyclohexyl-N-methyl-propionamide | NCCC(=O)N(C)C1CCCCC1 | C10H20N2O
